US07476399B2
N-(1-hydroxypentan-2-yl)benzo[d][1,3]dioxole-5-carboxamide was prepared in a similar manner to example 4 using benzo[d][1,3]dioxole-5-carboxylic acid and 2-aminopentan-1-ol. Yield: 76%. MS (M+H, 252).

reactant | benzo[d][1,3]dioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 2-aminopentan-1-ol | NC(CO)CCC | C5H13NO
product | N-(1-hydroxypentan-2-yl)benzo[d][1,3]dioxole-5-carboxamide | Yield: 76% | OCC(CCC)NC(=O)C1=CC2=C(OCO2)C=C1 | C13H17NO4
